US07521448B2
A mixture of 4-fluoro-3-nitrobenzoic acid (10.2 g, 54.9 mmol), N-(3-aminophenyl)-acetamide (9.21 g, 66.6 mmol), and Et3N (1.4 mL, 10.1 mmol.) in anhydrous EtOH (160 mL) was heated at reflux under N2 atmosphere. After 16 h, the reaction mixture was cooled and the resultant precipitate filtered. The orange solid was washed with 2 M aq HCl and dried to yield 4-{[3-(acetylamino)phenyl]amino}-3-nitrobenzoic acid. 1H NMR (400 MHz, DMSO-d6): δ 2.03 (s, 3H), 7.02 (d, J=7.9 Hz, 1H), 7.13 (d, J=9.0 Hz, 1H), 7.37 (t, J=8.0 Hz, 1H), 7.42 (d, J=8.0 Hz, 1H), 7.68 (s, 1H), 7.93 (dd, J=9.0, 1.9 Hz, 1H), 8.62 (s, 1H), 9.76 (s, 1H), 10.08 (s, 1H), 13.02 (brs, 1H). MS (ES+): m/z 316 [MH+].

reactant | 4-fluoro-3-nitrobenzoic acid | 54.9 mmol, 10.2 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | N-(3-aminophenyl)-acetamide | 66.6 mmol, 9.21 g | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | Et3N | 10.1 mmol, 1.4 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 160 mL | CCO | C2H6O
product | 4-{[3-(acetylamino)phenyl]amino}-3-nitrobenzoic acid | C(C)(=O)NC=1C=C(C=CC1)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C15H13N3O5
